US05440044
1.16 ml of n-butyllithium (1.6 molar in hexane) is instilled in a suspension of 500 mg of 2-bromo-6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine in 2 ml of diethyl ether and 1 ml of tetrahydrofuran at -80° C. under argon atmosphere. After completion of the addition, the reaction mixture is stirred for 15 minutes at -40° C., cooled to -80° C. and mixed by instillation at this temperature with 140 mg of dimethylformamide. After 4 hours at -80° C., the reaction mixture is hydrolyzed with 3 ml of 2 n hydrochloric acid, the organic phase is separated, dried on sodium sulfate, concentrated by evaporation and the residue is chromatographed on silica gel with hexane/0-10% ethyl acetate. 385 mg of 6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine-2-carbaldehyde is obtained as yellow oil.

reactant | n-butyllithium | 1.6 molar, 1.16 ml | C(CCC)[Li]
reactant | 2-bromo-6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine | 500 mg | BrC1=NC(=CC=C1)\C=C\C(CCCCCCCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C32H42BrNOSi
reactant | dimethylformamide | 140 mg | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-[(1E)-(3RS)-3-tert-butyldiphenylsilyloxy-1-undecenyl]-pyridine-2-carbaldehyde | 385 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC(/C=C/C1=CC=CC(=N1)C=O)CCCCCCCC | C33H43NO2Si
